US07411093B2
To 2-o-tolyl-cyclohexanone (0.22 g) in methanol (30 ml) was added ammonium acetate (0.90 g) and the reaction was allowed to stir at room temperature for 16 hours. After such time sodiumcyanoborohydride (91 mg) was added to the reaction mixture and stirred for 10 minutes. The reaction mixture was then treated with a saturated aqueous solution of NaHCO3, and extracted with ethyl acetate (2×50 ml). The combined organic phases were dried over sodium sulfate, concentrated in vacuo and purified by column chromatography to yield (cis) 2-m-tolyl-cyclohexylamine (35 mg) MS(ISP) 190.3 (M+H)+ and (trans) 2-m-tolyl-cyclohexylamine MS(ISP) 190.3 (M+H)+.

reactant | 2-o-tolyl-cyclohexanone | 0.22 g | C1(=C(C=CC=C1)C1C(CCCC1)=O)C | C13H16O
reactant | ammonium acetate | 0.90 g | C(C)(=O)[O-].[NH4+]
reactant | sodiumcyanoborohydride | 91 mg | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (cis) 2-m-tolyl-cyclohexylamine | 35 mg | C1(=CC(=CC=C1)[C@@H]1[C@@H](CCCC1)N)C | C13H19N
